US08871756B2
N-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]-2-fluoropropane-1,3-diamine
The title compound was prepared in analogy to Example 3-1 in Scheme 5 by using 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (prepared in analogy to the one in Example 2-1) and 2-fluoropropane-1,3-diamine. MS obsd. (ESI+) [(M+H)+] 429, 1H NMR (400 MHz, CD3OD) δ ppm 7.98 (dd, J=7.83, 1.01 Hz, 1 H), 7.84 (d, J=7.58 Hz, 1 H), 7.65-7.57 (m, 2 H), 7.47-7.38 (m, 2 H), 7.29 (dd, J=8.59, 1.77 Hz, 1 H), 6.10 (s, 1 H), 5.14 (s, 2 H), 4.69 (s, 2 H), 3.64 (d, J=5.31 Hz, 1 H), 3.61-3.52 (m, 4 H), 3.04-2.91 (m, 2 H), 2.41 (s, 3 H).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O2S
reactant | 2-fluoropropane-1,3-diamine | FC(CN)CN | C3H9FN2
product | N-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]-2-fluoropropane-1,3-diamine | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)NCC(CN)F)C)=O | C22H25FN4O2S
